US08378104B2
Step F: 7-bromo-5-fluoro-1,2-benzothiazole
A mixture of 3-bromo-2-tert-butylsulfanyl-5-fluoro-benzaldehyde oxime (3.8 g, 12 mmol) and p-toluenesulfonic acid (1.1 g, 6.2 mmol) in n-butanol (60 mL) was heated to reflux for 16 h. The reaction mixture was then concentrated. The residue was treated with water and saturated aqueous sodium bicarbonate, then extracted with dichloromethane (3×20 mL). The combined organic fractions were washed with water, dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography (100% hexanes) afforded 900 mg (32%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.97 (s, 1H), 7.68 (dd, J=2, 6 Hz, 1H), 7.50 (dd, J=2, 6 Hz, 1H).

reactant | 3-bromo-2-tert-butylsulfanyl-5-fluoro-benzaldehyde oxime | 12 mmol, 3.8 g | BrC=1C(=C(C=NO)C=C(C1)F)SC(C)(C)C | C11H13BrFNOS
reactant | p-toluenesulfonic acid | 6.2 mmol, 1.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | n-butanol | 60 mL | C(CCC)O | C4H10O
product | 7-bromo-5-fluoro-1,2-benzothiazole | 900 mg, 32% | BrC1=CC(=CC=2C=NSC21)F | C7H3BrFNS
